### ISSUE TITLE
RFC: `mvcgen` should automatically discharge `FailConds.entails` VCs with `FailConds.false` antecedents

### ISSUE THREAD

**Issue by rish987** [leanprover/lean4#9581]
### Proposal
In this MWE, `mvcgen` emits a VC that derives from a total postcondition. This VC is easily shown using `simp`:
```lean
structure MyException where
def F : EStateM MyException Unit Unit := do
  for _ in [0:5] do
    pure ()

theorem F_spec :
   ⦃⌜True⌝⦄
   F
   ⦃⇓ _ => ⌜1 < 2⌝⦄ := by
  mvcgen [F]

  case inv => exact ⇓ _ => ⌜1 < 2⌝

  mleave
  omega

  mleave
  omega

  -- Goal:
  -- case post.except
  -- ⊢ (⇓x => ⌜1 < 2⌝).snd ⊢ₑ (⇓x => ⌜1 < 2⌝).snd
  mleave
  -- Goal:
  -- case post.except
  -- ⊢ FailConds.false ⊢ₑ FailConds.false
  simp only [FailConds.false, FailConds.const, FailConds.entails.refl]
```
It seems that `mvcgen` should have taken care of this for us -- in general, I think it should automatically discharge any `FailConds.entails` VC where the antecedent simplifies to `FailConds.false`.

### Community Feedback

CC @sgraf812

**Comment by b-mehta** [comment]
Currently `mvcgen` tries to close trivialities, perhaps it would be sensible to make `mvcgen_trivial` an extensible tactic, so the user can ask it to try different things (eg `apply` a hypothetical `FailConds.false_elim`)

**Comment by sgraf812** [comment]
I think this is asking for two things

1. Making `mvcgen` automatically `mleave` every goal (so that we have `case post.except : ⊢ Prod.snd ?inv ⊢ₑ FailConds.false`)
2. Adding `FailConds.entails_false : FailConds.false ⊢ₑ x` to the simp set applied by `mleave`.

I added support for (1) in #9736. It can also easily do (2).

**Comment by sgraf812** [comment]
`mvcgen_trivial_extensible` is also part of #9736.

**Comment by sgraf812** [comment]
> Adding FailConds.entails_false : FailConds.false ⊢ₑ x to the simp set applied by mleave.

Actually, this was wrong. The entailment to discharge is `Prod.snd ?inv ⊢ₑ FailConds.false` and that is only provable by `rfl`. So you really need to instantiate the invariant before making any progress, and then the goal discharges by terminal `simp`.

So maybe the OP is actually asking for a custom tactic wrapper around `case inv => exact ...` that re-applies `mleave` to all affected subgoals?

**Comment by sgraf812** [comment]
After #9939, we can write

```
theorem F_spec_using_with :
   ⦃⌜True⌝⦄
   F
   ⦃⇓ _ => ⌜1 < 2⌝⦄ := by
  mvcgen [F]
  using invariants | 1 => ⇓ _ => ⌜1 < 2⌝
  with omega
```

And I think that sufficiently addresses the intention of the RFC.
